US03994890
1-Hydroxymethyl-3-phenylindazole (2 g), morpholine (0.84 g) and 5% aqueous sodium hydroxide solution (1 ml) were dissolved in ethanol (30 ml), and the mixture was heated under reflux for 3 hours. After completion of the reaction, the mixture was concentrated under reduced pressure. The resulting oily residue was treated with ether-hydrochloric acid to obtain 1-morpholinomethyl-3-phenylindazole having a melting point between 166°-167° C (decomposition) after recrystallization from ethanol-ether.

reactant | 1-Hydroxymethyl-3-phenylindazole | 2 g | OCN1N=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H12N2O
reactant | morpholine | 0.84 g | N1CCOCC1 | C4H9NO
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-morpholinomethyl-3-phenylindazole | O1CCN(CC1)CN1N=C(C2=CC=CC=C12)C1=CC=CC=C1 | C18H19N3O
